US06566362B2
A suspension of 0.8 g of ethyl 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate in a mixture of 60 Cm3 of aqueous ethanol at 50% and 2.8 cm3 of a 1 N aqueous potassium hydroxide solution was heated, with stirring, for 2 hours at a temperature of 70° C. After concentration under reduced pressure (5.2 kPa) at 60° C., the residue was dissolved in 100 cm3 of water; the light insoluble material was removed by filtration. The solution obtained was neutralized with 2.8 cm3 of a 1 N aqueous hydrochloric acid solution. The insoluble material formed was dewatered, washed 3 times with 20 cm of water, twice with 15 cm3 of ethanol and dried under vacuum at 100° C. 0.65 g of 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid was obtained in the form of yellow crystals, which melted at 365° C.

reactant | ethyl 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.8 g | FC=1C(=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C1)N1CCCC1 | C20H20FN3O3
reactant | potassium hydroxide | 1 N | [OH-].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 9-fluoro-4-methyl-1-oxo-8-pyrrolidinyl-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid | 0.65 g | FC=1C(=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)O)=O)C1)N1CCCC1 | C18H16FN3O3
